US04476132
6 g of 4-ethoxy-6-butyryl-7-methylquinoline-2-carboxylic acid ethyl ester are dissolved in 150 ml of ethanol, 9 ml of 2N sodium hydroxide solution are added and the mixture is hydrolysed for 15 minutes at room temperature. The precipitated crystals are filtered with suction and recrystallised from water. Sodium 4-ethoxy-6-butyryl-7-methylquinoline-2-carboxylate having a melting point of above 250° C. is obtained. By dissolving in water and acidifying, 4-ethoxy-6-butyryl-7-methylquinoline-2-carboxylic acid is obtained.

reactant | 4-ethoxy-6-butyryl-7-methylquinoline-2-carboxylic acid ethyl ester | 6 g | C(C)OC(=O)C1=NC2=CC(=C(C=C2C(=C1)OCC)C(CCC)=O)C | C19H23NO4
reactant | sodium hydroxide | 2N, 9 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Sodium 4-ethoxy-6-butyryl-7-methylquinoline-2-carboxylate | C(C)OC1=CC(=NC2=CC(=C(C=C12)C(CCC)=O)C)C(=O)[O-].[Na+] | InChI=1S/C17H19NO4.Na/c1-4-6-15(19)11-8-12-13(7-10(11)3)18-14(17(20)21)9-16(12)22-5-2;/h7-9H,4-6H2,1-3H3,(H,20,21);/q;+1/p-1
